US05264433
To a solution of (3S)-3-[[(2S)-2-[N'-(phenyl)-thioureido]-3-phenylpropanoyl]amino]-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl)methyl]-2H-1,4-benzodiazepin-2-one (14.10 g) in tetrahydrofuran (84.6 ml) was added dropwise 4N-hydrogen chloride in ethyl acetate (84.6 ml) below 6° C. After stirring under the same conditions for 10 hours, the resultant precipitates were collected by filtration, and then the collected precipitate was suspended in chloroform and stirred for 1 hour at room temperature. The objective product was collected by filtration to give (3S)-3-amino-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl)methyl]-2H-1, 4-benzodiazepin-2-one hydrochloride (7.15 g).

reactant | (3S)-3-[[(2S)-2-[N'-(phenyl)-thioureido]-3-phenylpropanoyl]amino]-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl)methyl]-2H-1,4-benzodiazepin-2-one | 14.10 g | C1(=CC=CC=C1)NC(N[C@H](C(=O)N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC2=NN=NN2)=O)CC2=CC=CC=C2)=S | C33H29N9O2S
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 84.6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 84.6 ml | C(C)(=O)OCC | C4H8O2
product | (3S)-3-amino-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl)methyl]-2H-1, 4-benzodiazepin-2-one hydrochloride | 7.15 g | Cl.N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC2=NN=NN2)=O | InChI=1S/C17H15N7O.ClH/c18-16-17(25)24(10-14-20-22-23-21-14)13-9-5-4-8-12(13)15(19-16)11-6-2-1-3-7-11;/h1-9,16H,10,18H2,(H,20,21,22,23);1H/t16-;/m0./s1
